US07842685B2
2,2,2-Trifluoroacetic acid (0.5 mL, 6.49 mmol) was added to a solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid (130.0 mg, 0.233 mmol) in DCM (4.5 mL) and the resulting solution was stirred at 25° C. for 2 h. The reaction mixture was then concentrated in vacuo, and the residue was taken up in DMSO (2.0 mL) and purified by rpHPLC (10-100% CH3CN/H2O+0.1% TFA) to provide (2S,4R)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid as a white solid. MS (ESI) m/z: Calculated: 457.1; Observed: 458.1 (M++1).

reactant | 2,2,2-Trifluoroacetic acid | 6.49 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid | 0.233 mmol, 130.0 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=CC=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(=O)O | C31H31N3O5S
solvent | DCM | 4.5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=CC=C(O[C@@H]1C[C@H](NC1)C(=O)O)C=C2 | C26H23N3O3S
